US06613942B1
1,2-Dibromoethane (57 mL, 0.66 moles) was added to a mixture of 4-hydroxy-2-methoxybenzaldehyde (10 g, 66 mmoles) and potassium carbonate (45 g, 0.33 moles) in DMF (130 ml) and the resulting mixture was stirred vigorously at room temperature for 16 hours. The mixture was poured into water (0.8 L) and extracted with ethyl acetate (3×300 mL). The combined organic phases were washed with saturated sodium chloride (400 mL), dried over MgSO4 and evaporated in vacuo to afford 17.4 g (99%) of 4-(2-bromoethoxy)-2-methoxybenzaldehyde, M.p. 78-79° C.

reactant | 1,2-Dibromoethane | 0.66 moles, 57 mL | BrCCBr | C2H4Br2
reactant | 4-hydroxy-2-methoxybenzaldehyde | 66 mmoles, 10 g | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | potassium carbonate | 0.33 moles, 45 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.8 L | O | H2O
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
product | 4-(2-bromoethoxy)-2-methoxybenzaldehyde | 17.4 g, 99% | BrCCOC1=CC(=C(C=O)C=C1)OC | C10H11BrO3
